US07285558B2
a) 3-[7-isobutyl-5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]benzonitrile
A solution of 100 mg (0.26 mmol) of l-naphthaldehyde (3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone, 36 mg (0.27 mmol) of 3-cyano benzaldehyde and 20 uL of triethylamine in 20 mL DMF was heated at 85° C. for 20 h. The mixture was diluted with ether and washed 4 times with water. The ether was dried (MgSO4) and concentrated to give a yellow solid which was recrystallized from ethanol to give 84 mg of the subtitle product.

reactant | l-naphthaldehyde (3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone | 0.26 mmol, 100 mg | C(C(C)C)N1C(N(C(C=C1NN=CC1=CC=CC2=CC=CC=C12)=O)C)=O | C20H22N4O2
reactant | 3-cyano benzaldehyde | 0.27 mmol, 36 mg | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | triethylamine | 20 uL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-[7-isobutyl-5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]benzonitrile | 84 mg | C(C(C)C)N1C(N(C(C=2C1=NN(C2C=2C=C(C#N)C=CC2)CC2=CC=CC1=CC=CC=C21)=O)C)=O | C28H25N5O2
